US04073936
4-(p-cyclohexylphenyl)-3-butyn-1-ol
To a solution of 153 g of ethylbromide in 160 ml of abs. THF, is added a suspension of 36 g of magnesium turning in 330 ml of THF, (to obtain a solution of ethyl magnesium bromide) and the reaction mixture cooled to 0° to 5°. To the reaction mixture is then added, dropwise, a solution of 214 g of p-cyclohexylphenylacetylene in 420 ml of abs. THF, over a period of one hour. The resulting thick suspension is diluted with 200 of abs. THF and then refluxed for 1.5 hours. The reaction mixture is then cooled to 0°, and a solution of 62 g ethylene oxide in 420 ml of abs. THF added thereto, dropwise, over a period of one hour. After addition is completed, the reaction mixture is refluxed for 2.5 hours, then decomposed by adding dilute sulfuric acid (5%), and extracted with ether. The combined ether extracts are washed with water, then brine, and evaporated i.v. to dryness to obtain a residue from which is crystallized 4-(p-cyclohexylphenyl)-3-butyn-1 -ol, m.p. 56° - 59° from pentane.

reactant | p-cyclohexylphenylacetylene | 214 g | C1(CCCCC1)C1=CC=C(C=C1)C#C | C14H16
reactant | ethylene oxide | 62 g | C1CO1 | C2H4O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | THF | C1CCOC1 | C4H8O
product | 4-(p-cyclohexylphenyl)-3-butyn-1-ol | C1(CCCCC1)C1=CC=C(C=C1)C#CCCO | C16H20O
